US06645997B2
Step B: (2R)-7-(3-(2-Propyl-4-(4-isobutylphenoxy)phenoxy)propoxy)-2-propylchromane-2-carboxylic acid
The title compound was prepared following the procedures described in Example 17, Step B-C employing (2R)-methyl 2-propyl-7-hydroxychromane-2-carboxylate instead of ethyl 7-hydroxychromane-2-carboxylate, and 2-propyl-4-(4-isobutylphenoxy)phenol (U.S. Pat. No. 6,008,237) instead of 2-chloro-4-phenoxyphenol.

reactant | (2R)-methyl 2-propyl-7-hydroxychromane-2-carboxylate | C(CC)[C@]1(OC2=CC(=CC=C2CC1)O)C(=O)OC | C14H18O4
reactant | 2-propyl-4-(4-isobutylphenoxy)phenol | C(CC)C1=C(C=CC(=C1)OC1=CC=C(C=C1)CC(C)C)O | C19H24O2
reactant | 2-chloro-4-phenoxyphenol | ClC1=C(C=CC(=C1)OC1=CC=CC=C1)O | C12H9ClO2
product | (2R)-7-(3-(2-Propyl-4-(4-isobutylphenoxy)phenoxy)propoxy)-2-propylchromane-2-carboxylic acid | C(CC)C1=C(OCCCOC2=CC=C3CC[C@@](OC3=C2)(C(=O)O)CCC)C=CC(=C1)OC1=CC=C(C=C1)CC(C)C | C35H44O6
